US05334225
To 30 ml of dioxane, there were added 1.50 g (12.6 mmol) of 6-amino-m-cresol and 0.6 g (6.0 mmol) of calcium carbonate. To the solution thus obtained, there was added 1.02 g of butanoyl chloride over 10 minutes, followed by stirring at room temperature for 30 minutes. After the completion of the reaction, the inorganic salt was filtered and 150 ml of water was poured thereto. Then the mixture was extracted with 150 ml of ethyl acetate, washed with a saturated aqueous solution of common salt and dried over anhydrous Glauber's salt. After distilling off the solvent under reduced pressure, a red oily product was obtained. This product was crystallized by adding thereto 15 ml of hexane and 6 ml of ethyl acetate, and then filtered and dried. Thus 0.62 g (3.2 mmol) of N-(2-hydroxy-4-methylphenyl)butanamide was obtained as colorless crystals. The yield was 25%.

reactant | 6-amino-m-cresol | 12.6 mmol, 1.50 g | NC=1C=CC(=CC1O)C | C7H9NO
reactant | calcium carbonate | 6.0 mmol, 0.6 g | C([O-])([O-])=O.[Ca+2]
reactant | butanoyl chloride | 1.02 g | C(CCC)(=O)Cl | C4H7ClO
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | N-(2-hydroxy-4-methylphenyl)butanamide | 3.2 mmol, 0.62 g, yield was 25% | OC1=C(C=CC(=C1)C)NC(CCC)=O | C11H15NO2
